US08957073B2
To a round bottomed flask was added 2-(3-(3-(1,4-diazepan-1-yl)pyrazin-2-yl)azetidin-1-yl)quinoline (0.0772 g, 0.214 mmol), pyridine (commercially available through Aldrich, 0.035 ml, 0.428 mmol), and 4-(pyrrolidin-1-yl)pyridine (commercially available through Alfa Aesar, 0.032 g, 0.214 mmol) and the reaction was allowed to stir at RT in DCM (0.714 ml). Methyl carbonochloridate (commercially available through Aldrich, 0.021 ml, 0.321 mmol) was added and allowed to stir overnight. Upon completion, the solvent was evaporated. The crude product was adsorbed onto a plug of silica gel and chromatographed through a Biotage 50 g SNAP HP-silica column, eluting with a gradient of 0.5% to 5% MeOH in CH2CL2, to provide methyl 4-(3-(1-(quinolin-2-yl)azetidin-3-yl)pyrazin-2-yl)-1,4-diazepane-1-carboxylate (0.0632 g, 0.151 mmol, 70.5% yield). ESI-MS (M+1): 419.0. PDE10 IC50 (μM): 0.0046.

reactant | 2-(3-(3-(1,4-diazepan-1-yl)pyrazin-2-yl)azetidin-1-yl)quinoline | 0.214 mmol, 0.0772 g | N1(CCNCCC1)C=1C(=NC=CN1)C1CN(C1)C1=NC2=CC=CC=C2C=C1 | C21H24N6
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 4-(pyrrolidin-1-yl)pyridine | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
reactant | Methyl carbonochloridate | C(OC)(=O)Cl | C2H3ClO2
solvent | DCM | 0.714 ml | C(Cl)Cl | CH2Cl2
product | methyl 4-(3-(1-(quinolin-2-yl)azetidin-3-yl)pyrazin-2-yl)-1,4-diazepane-1-carboxylate | 0.151 mmol, 0.0632 g, 70.5% yield | N1=C(C=CC2=CC=CC=C12)N1CC(C1)C=1C(=NC=CN1)N1CCN(CCC1)C(=O)OC | C23H26N6O2
